US07723345B2
An Emrys process vial (20 ml) for microwave was charged with tert-butyl 3-(4-bromo-2-fluorophenyl)-2-(diphenylmethylene-amino)propanoate (600 mg, 1.24 mmol), Pd(dba)2 (71 mg, 0.124 mmol), PCy3 (35 mg, 0.124 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane (346 mg, 1.1 eq. 1.36 mmol) and KOAc (182 mg, 1.5 eq., 1.86 mmol) 20 ml of DMF. The reaction vessel was sealed and heated to 160° C. for 20 minutes by microwave. After cooling, the reaction mixture was evaporated to dryness under reduced pressure. The residue was dissolved in H2O (30 ml), extracted with EtOAc (2×40 ml), and purified with Prep-LC to give 220 mg of tert-butyl 2-(diphenylmethyleneamino)-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate.

reactant | tert-butyl 3-(4-bromo-2-fluorophenyl)-2-(diphenylmethylene-amino)propanoate | 1.24 mmol, 600 mg | BrC1=CC(=C(C=C1)CC(C(=O)OC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)F | C26H25BrFNO2
reactant | PCy3 | 0.124 mmol, 35 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 1,3,2-dioxaborolane | 1.36 mmol, 346 mg, 1.1 eq | O1BOCC1 | C2H5BO2
reactant | KOAc | 1.86 mmol, 20 ml, 182 mg, 1.5 eq. | CC(=O)[O-].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(dba)2 | 0.124 mmol, 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | tert-butyl 2-(diphenylmethyleneamino)-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate | 220 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OC(C)(C)C)CC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C32H37BFNO4
